US05286733
A mixture of 1-cyclopentyl-5-[2,3,4-trimethyl-1-(phenylmethyl)-3-piperidinyl]-3-pentanone (6.3 g, 17 mmol), 5 ethanolic HCl (4 mL, 20 mmol) and 10% palladium on carbon (1.2 g) was placed on a Parr hydrogenator at 50 psi for 3 hours, then palladium (II) chloride (0.6 g) and charcoal (1.0 g) were added and the mixture was hydrogenated at 50 psi for 2.5 hours. The catalysts were removed by filtration and the solvent was removed in vacuo. The residue was partitioned between 10% Na2CO3 (100 mL) and ether (2×150 mL), the organic layers were separated and washed with brine (50 mL). The organic layers were dried over Na2SO4 and the solvent was removed in vacuo to afford 4.0 g (84%) of 1-cyclopentyl-5-(2,3,4-trimethyl-3-piperidinyl)-3-pentanone. 2.1 g of the product was used directly in the next step, while the remaining 1.9 g was purified by column chromatography on silica gel eluting with 1-10% triethylamine/ether to afford 1.1 g of the purified product. Treatment of the purified product with 5N ethereal HCl followed by dilution with ether and recrystallization of the solid thus obtained from ethanol/ether afforded 0.8 g of 1-cyclopentyl-5-(2,3,4-trimethyl-3-piperidinyl)-3-pentanone hydrochloride as a white powder, m.p. 127°-128° C.

reactant | 1-cyclopentyl-5-[2,3,4-trimethyl-1-(phenylmethyl)-3-piperidinyl]-3-pentanone | 17 mmol, 6.3 g | C1(CCCC1)CCC(CCC1(C(N(CCC1C)CC1=CC=CC=C1)C)C)=O | C25H39NO
reactant | HCl | 20 mmol, 4 mL | Cl | ClH
reactant | charcoal | 1.0 g | C | CH4
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
catalyst | palladium (II) chloride | 0.6 g | [Pd](Cl)Cl
product | 1-cyclopentyl-5-(2,3,4-trimethyl-3-piperidinyl)-3-pentanone | 4.0 g, 84% | C1(CCCC1)CCC(CCC1(C(NCCC1C)C)C)=O | C18H33NO
